US07109360B1
0.55 g of 3-methoxy-13α-estra-1,3,5(10)-trien-16α-ol is dissolved hot under a cover gas in 10 ml of toluene. A mixture of 2.3 ml of diisobutylaluminum hydride and 5.4 ml of toluene is added in drops to this solution and refluxed until the reaction is completed (about 4 hours). 2.1 ml of ethanol is added to the cooled batch, and 6 ml of semi-concentrated hydrochloric acid is carefully added while being cooled. After extraction with ethyl acetate, the organic phase is washed neutral and dried on magnesium sulfate. 362 mg of 13α-estra-1,3,5(10)-triene-3,16α-diol is obtained. The recrystallization from methanol yields colorless crystals; flash point 224 . . . 231° C.; [α]D=+61° (pyridine, c=1.13).

reactant | 3-methoxy-13α-estra-1,3,5(10)-trien-16α-ol | 0.55 g | COC1=CC=2CC[C@H]3[C@@H]4C[C@H](C[C@]4(C)CC[C@@H]3C2C=C1)O | C19H26O2
reactant | diisobutylaluminum hydride | 2.3 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethanol | 2.1 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 6 ml | Cl | ClH
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5.4 ml | C1(=CC=CC=C1)C | C7H8
product | 13α-estra-1,3,5(10)-triene-3,16α-diol | 362 mg | C[C@]12C[C@@H](C[C@H]1[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)O)O | C18H24O2
